US06353010B1
7-Methoxy-3-methyl-2-trifluoromethylbenzimidazole
To a solution of 4-methoxy-2-trifluoromethylbenzimidazole (1.4 g) in tetrahydrofuran (40 ml) under nitrogen was added sodium hydride (0.32 g; 60% dispersion in oil). The mixture was stirred for 20 minutes at room temperature before methyl iodide (1.35 g) was added. Stirring was continued overnight. The reaction was quenched by the addition of water (10 ml) and the solvent removed in vacuo. Ethyl acetate (50 ml) was added and the organic layer washed with saturated sodium bicarbonate solution (20 ml), water (20 ml) and brine (20 ml). Drying over anhydrous magnesium sulfate followed by the removal of the solvent in vacuo gave the title compound (1.6 g) as an oil which solidified on standing.

reactant | 4-methoxy-2-trifluoromethylbenzimidazole | 1.4 g | COC1=CC=CC=2N=C(NC21)C(F)(F)F | C9H7F3N2O
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | methyl iodide | 1.35 g | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-3-methyl-2-trifluoromethylbenzimidazole | 1.6 g | COC1=CC=CC2=C1N=C(N2C)C(F)(F)F | C10H9F3N2O
